US05712300
Preparation of [S-(R*,R*)]-α-(2-Methylpropyl)-α-(propen-2-yl)-γ-hydroxymethyl-γ-butyrolactone
TFA (15.0 mL) is added to a solution of [S-(R*,R*)]-α-(2-methylpropyl)-α-(propen-2-yl)-γ-trityloxymethyl-γ-butyrolactone (2.09 g, 4.60 mmol) and CH2Cl2 (30.0 mL) at 0° C. The solution is stirred for 75 minutes at 0° C. and is concentrated. Aqueous workup (CH2Cl2, MgSO4) and purification by flash chromatography (1:1 hexane:EtOAc) provides 684 mg (70%) of the title compound as an oil.

reactant | TFA | 15.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | α-(2-methylpropyl)-α-(propen-2-yl)-γ-trityloxymethyl-γ-butyrolactone | 4.60 mmol, 2.09 g | CC(CC1(C(=O)OC(C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)C)C | C31H34O3
solvent | CH2Cl2 | 30.0 mL | C(Cl)Cl | CH2Cl2
product | α-(2-Methylpropyl)-α-(propen-2-yl)-γ-hydroxymethyl-γ-butyrolactone | 684 mg, 70% | CC(CC1(C(=O)OC(C1)CO)C(=C)C)C | C12H20O3
